US06706725B1
b) 2-(2-Ethyl-[1,3]dioxolan-2-yl)thiophene-4-carbaldehyde
In a manner similar to that of Example 9(g), by reaction of 12 g (45.6 mmol) of 2-(4-bromo-2-thienyl)-2-ethyl-[1,3]dioxolane with 20 mL (50 mmol) of 2.5 M butyllithium and 3.9 mL (50 mmol) of dimethylformamide, the desired product is obtained in the form of a yellow oil (m=4.6 g, Y=48%).

reactant | 2-(4-bromo-2-thienyl)-2-ethyl-[1,3]dioxolane | 45.6 mmol, 12 g | BrC=1C=C(SC1)C1(OCCO1)CC | C9H11BrO2S
reactant | butyllithium | 50 mmol, 2.5 M, 20 mL | C(CCC)[Li]
reactant | dimethylformamide | 50 mmol, 3.9 mL | CN(C=O)C | C3H7NO
product | 2-(2-Ethyl-[1,3]dioxolan-2-yl)thiophene-4-carbaldehyde | C(C)C1(OCCO1)C=1SC=C(C1)C=O | C10H12O3S
